US04167638
A. 6-Methoxy-4-methyl-8-(6-phthalimidohexylamino)quinoline.
A stirred mixture of 20.9 g (0.111 mole) of 8-amino-6-methoxy-4-methylquinoline and 34.5 g (0.111 mole) of N-(6-bromohexyl)phthalimide was heated in an oil bath (130° ) while 11.2 g (15.4 ml; 0.111 mole) of triethylamine was added dropwise over a period of 45 minutes. The temperature of the bath was kept at 130° for 60 minutes, at 150° for 60 minutes, between 150° and 190° for 30 minutes, and at 190° for 30 minutes. The mixture was cooled then diluted with acetone (100 ml). The precipitate as collected on a filter, washed with acetone (2×50 ml), dried, then discarded. The filtrate was concentrated in vacuo to a dark oil; yield 53 g. The oil was dissolved in 100 ml of dischloromethane, and the solution was chromatographed on a column (40 cm× 8 cm dia) of silica gel (1000 g; activity III) using dichloromethane (1.5 l) as the eluent. Fractions containing the product were combined then concentrated in vacuo; yield 35.5 g (83.7%). That material was satisfactory for conversion to the target compound, however a 93% recovery of analytically pure material (mp 84°-85° ) could be obtained by crystallization from ethanol.

reactant | 8-amino-6-methoxy-4-methylquinoline | 0.111 mole, 20.9 g | NC=1C=C(C=C2C(=CC=NC12)C)OC | C11H12N2O
reactant | N-(6-bromohexyl)phthalimide | 0.111 mole, 34.5 g | BrCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C14H16BrNO2
reactant | triethylamine | 0.111 mole, 15.4 ml, 11.2 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 6-Methoxy-4-methyl-8-(6-phthalimidohexylamino)quinoline | COC=1C=C2C(=CC=NC2=C(C1)NCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C25H27N3O3
